US05721234
5-Amino-6-bromo-4-nitroindane-2-carboxylic acid
A mixture of 5-acetamido-6-bromo-2-carboxyethyl-4-nitroindane (7.1 g, 19 mmol) in acetic acid (25 mL) and 3N HCl (100 mL) was heated at 100° C. for 18 h. The mixture was concentrated by rotoevaporation, and the resulting orange solid was collected by filtration, washed with ether and dried to give the product (5.5 g).

reactant | 5-acetamido-6-bromo-2-carboxyethyl-4-nitroindane | 19 mmol, 7.1 g | C(C)(=O)NC=1C(=C2CCC(C2=CC1Br)CCC(=O)O)[N+](=O)[O-] | C14H15BrN2O5
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 3N, 100 mL | Cl | ClH
product | 5-Amino-6-bromo-4-nitroindane-2-carboxylic acid | 5.5 g | NC=1C(=C2CC(CC2=CC1Br)C(=O)O)[N+](=O)[O-] | C10H9BrN2O4
